US08258141B2
Cyclobutanecarboxylic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-amide
A solution of (1S,2R,3S,5R)-3-amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol hydrochloride (Intermediate JJ3) (100 mg, 0.2 mmol) in dry THF (1 ml) is treated with diisopropylethylamine (0.17 ml, 1 mmol) and cyclobutanecarboxylic acid chloride (0.023 ml, 0.2 mmol) and the mixture is stirred at room temperature for 48 hours. The solvent is removed under reduced pressure. The residue is purified by reverse-phase chromatography eluting with a gradient system of acetonitrile (0.1% TFA):water (0.1% TFA) (0:100 by volume) gradually changing to acetonitrile (0.1% TFA):water (0.1% TFA) (100:0 by volume) to afford the title compound (51 mg). LCMS (electrospray): m/z [MH+] 547.26. 1H nmr (MeOD, 400 MHz); 8.00 (s, 1H), 7.40-7.25 (m, 8H), 7.20-7.15 (m, 2H), 4.70 (m, 1H), 4.50 (m, 2H), 4.20 (m, 2H), 3.95 (m, 1H), 2.85 (m, 1H), 2.30 (m, 2H), 2.20 (m, 2H), 2.05 (m, 2H), 1.90 (m, 1H)

reactant | (1S,2R,3S,5R)-3-amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol hydrochloride | 0.2 mmol, 100 mg | Cl.N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O
reactant | diisopropylethylamine | 1 mmol, 0.17 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclobutanecarboxylic acid chloride | 0.2 mmol, 0.023 ml | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Cyclobutanecarboxylic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-amide | 51 mg | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)C1CCC1)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31ClN6O3
